US07247644B2
6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid decyl ester
A solution of 2.5 g (8.4 mmol) of 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid monohydrate in 50 ml decyl alcohol saturated with hydrogen chloride (g) is heated at 120° C. overnight. The mixture is concentrated in vacuo and the residue purified by SPE (Oasis HLB) to afford the title compound.

reactant | 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid monohydrate | 8.4 mmol, 2.5 g | O.N1N=NN=C1CCC1CC2CC(NCC2CC1)C(=O)O
reactant | hydrogen chloride | Cl | ClH
solvent | decyl alcohol | 50 ml | C(CCCCCCCCC)O | C10H22O
product | 6-[2-(1H-Tetrazol-5-yl)-ethyl]-decahydro-isoquinoline-3-carboxylic acid decyl ester | C(CCCCCCCCC)OC(=O)C1NCC2CCC(CC2C1)CCC1=NN=NN1 | C23H41N5O2
